US05733922
2,4-bis-(4-dimethylaminobenzylthio)-5,5-dimethyl-5H-imidazole
Initially, 3.2 g of 4-dimethylaminobenzylchloride hydrochloride was added to a solution of 1 g of 5,5-dimethyl-2,4-dithiohydantoin in 50 mL of ethanol (EtOH). The reaction mixture was treated following the procedure used in Example 62, and purified by column chromatography (CHCl3). Recrystallization form diethyl ether-n-hexane gave the desired compound in the form of a needle-like crystal. The yield of this compound was 1.9 g with a yield ratio of 71.2%, and the melting point was 91°-92° C.

reactant | 4-dimethylaminobenzylchloride hydrochloride | 3.2 g | Cl.CN(C1=CC=C(CCl)C=C1)C
reactant | 5,5-dimethyl-2,4-dithiohydantoin | 1 g | CC1(C(NC(N1)=S)=S)C | C5H8N2S2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2,4-bis-(4-dimethylaminobenzylthio)-5,5-dimethyl-5H-imidazole | CN(C1=CC=C(CSC2=NC(C(=N2)SCC2=CC=C(C=C2)N(C)C)(C)C)C=C1)C | C23H30N4S2
